US03931318
A mixture consisting of 21.9 g. (0.105 mole) phosphorus pentachloride, 150 ml. of carbon tetrachloride, and 25.83 g. (0.100 mole) o-(methylthio)benzoic acid 2-phenylhydrazide (prepared in Part A above) was heated at the reflux temperature until evolution of hydrogen chloride ceased. The reaction mixture was chilled in an ice-bath, and a suspension of 31.5 g. (0.335 mole) phenol in 50 ml. carbon tetrachloride was added. After removing the carbon tetrachloride by evaporation under reduced pressure, the resulting triphenylphosphate solution of the desired product was poured through a column of silica gel. Elution was effected with a mixture consisting of 1 part benzene and 1 part Skellysolve B. After removing the solvents from the eluate by evaporation under reduced pressure, 2.0 g. of residue was obtained. Recrystallization from petroleum ether gave an o-(methylthio)-chlorobenzoyl chloride phenylhydrazone having a melting point at 65° to 66.5°C.

reactant | phosphorus pentachloride | 0.105 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | o-(methylthio)benzoic acid 2-phenylhydrazide | 0.100 mole | C1(=CC=CC=C1)NNC(C1=C(C=CC=C1)SC)=O | C14H14N2OS
reactant | hydrogen chloride | Cl | ClH
reactant | phenol | 0.335 mole | C1(=CC=CC=C1)O | C6H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | o-(methylthio)-chlorobenzoyl chloride phenylhydrazone | C1(=CC=CC=C1)NN=C(C1=C(C(=CC=C1)Cl)SC)Cl | C14H12Cl2N2S
